US20010007873A1
D. 1-Bromo-2-cyclopentyl4-benzyloxy-benzene
Prepared by an NBS bromination of 1-cyclopentyl-3-benzyloxy-benzene, as described in Example 14B, in 76% yield.

reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1-cyclopentyl-3-benzyloxy-benzene | C1(CCCC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C18H20O
product | 1-Bromo-2-cyclopentyl4-benzyloxy-benzene | 76% yield | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)C1CCCC1 | C18H19BrO
